US07582773B2
Step 4: Synthesis of [4-(9-Methyl-6,7,8,9-tetrahydro-5H-carbazol-3-yl)-phenoxy]-acetonitrile.
The desired product was prepared using a procedure similar to step 5 of example 3. Thus, 4-(9-methyl-6,7,8,9-tetrahydro-5H-carbazol-3-yl)-phenol (0.194 g, 0.699 mmol) was reacted with K2CO3 (0.116 g, 0.839 mmol) and bromoacetonitrile (0.101 g, 0.839 mmol) in acetone (8 ml) to give the product (0.153 g, 0.484 mmol, 69%) as a white solid, mp 204-206° C. 1H NMR (DMSO-d6) δ 1.77-1.82 (m, 2H), 1.84-1.90 (m, 2H), 2.67 (t, J=5.8 Hz, 2H), 2.72 (t, J=5.8 Hz, 2H), 3.61 (s, 3H), 5.19 (s, 2H), 7.12 (d, J=8.7 Hz, 2H), 7.33 (dd, J=1.4, 8.4 Hz, 1H), 7.40 (d, J=8.6 Hz, 1H), 7.59 (s, 1H), 7.65 (d, J=8.6 Hz, 2H); [ESI(+)], m/z 317 (M+H)+.

reactant | 4-(9-methyl-6,7,8,9-tetrahydro-5H-carbazol-3-yl)-phenol | 0.699 mmol, 0.194 g | CN1C=2CCCCC2C=2C=C(C=CC12)C1=CC=C(C=C1)O | C19H19NO
reactant | K2CO3 | 0.839 mmol, 0.116 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoacetonitrile | 0.839 mmol, 0.101 g | BrCC#N | C2H2BrN
solvent | acetone | 8 ml | CC(=O)C | C3H6O
product | [4-(9-Methyl-6,7,8,9-tetrahydro-5H-carbazol-3-yl)-phenoxy]-acetonitrile | CN1C=2CCCCC2C=2C=C(C=CC12)C1=CC=C(OCC#N)C=C1 | C21H20N2O
